US06107068
Reduced nicotinamide adenine dinucleotide phosphate (NADPH), riboflavin, flavin adenine mononucleotide (FMN), flavin adenine dinucleotide (FAD), coenzyme A disulfide, glutathionyl-coenzyme A mixed disulfide, 3'-dephospho coenzyme A, 5,5'-dithio-bis(2-nitrobenzoic acid) (DTNB), lysostaphin, bicinchoninic acid solution, 4% copper sulphate pentahydrate solution, 2',5'-adenosine diphosphate (ADP)-Sepharose®; and phenylmethylsulphonyl fluoride (PMSF) were from Sigma (Mississauga, ON). 3'-dephospho CoA was oxidized to the disulfide by incubation at room temperature overnight in Tris-HCl (20 mM), pH 9.0, containing copper (5 μM). 4,4'-phosphopantetheine was formed by incubation of CoA with nucleotide pyrophosphatase. The thiol was oxidized as described above, and the disulfide was purified by high performance liquid chromatography (HPLC). All other chemicals were of reagent grade or better and were used without further purification.

reactant | riboflavin | CC=1C=C2C(=CC1C)N(C3=NC(=O)NC(=O)C3=N2)C[C@@H]([C@@H]([C@@H](CO)O)O)O | C17H20N4O6
reactant | glutathionyl-coenzyme A | N([C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O)SCCNC(CCNC([C@@H](C(COP(OP(OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)OP(=O)(O)O)(=O)O)(=O)O)(C)C)O)=O)=O | C31H51N10O22P3S2
reactant | 3'-dephospho coenzyme A | CC(C)(COP(=O)(O)OP(=O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N2C=NC3=C2N=CN=C3N)O)O)C(C(=O)NCCC(=O)NCCS)O | C21H35N7O13P2S
reactant | 5,5'-dithio-bis(2-nitrobenzoic acid) | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)SSC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C14H8N2O8S2
reactant | bicinchoninic acid | C1=CC=C2C(=C1)C(=CC(=N2)C3=NC4=CC=CC=C4C(=C3)C(=O)O)C(=O)O | C20H12N2O4
reactant | phenylmethylsulphonyl fluoride | C1(=CC=CC=C1)CS(=O)(=O)F | C7H7FO2S
reactant | 3'-dephospho CoA | CC(C)(COP(=O)(O)OP(=O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N2C=NC3=C2N=CN=C3N)O)O)[C@H](C(=O)NCCC(=O)NCCS)O | C21H35N7O13P2S
solvent | Tris-HCl | 20 mM | C(C(CO)(CO)N)O.Cl
catalyst | copper sulphate pentahydrate | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
catalyst | copper | 5 μM | [Cu] | Cu
product | CoA | CC(C)(COP(=O)(O)OP(=O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N2C=NC3=C2N=CN=C3N)O)OP(=O)(O)O)[C@H](C(=O)NCCC(=O)NCCS)O | C21H36N7O16P3S
